US04435203
A mixture of 1.6 g of (-)-[(E)-1-(2,4-dichlorphenyl)-2-(1,2,4-triazol-1-yl)-4,4-dimethyl-1-penten-3-yl]-(-)-menthoxyacetate and 30 cc of a 95% aqueous ethanol solution containing 0.2 g of potassium hydroxide was stirred at 25° C. for one hour. The reaction mixture was poured into 200 cc of ice water and extracted with 300 cc of ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting crude crystals were recrystallized from a carbon tetrachloride-n-hexane mixture to obtain 0.8 g of (-)-(E)-1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-4,4-dimethyl-1-penten-3-ol: [α]D24 -31.7 (c=1, CHCl3), melting point 160°-161° C. The NMR spectrum was the same as that of the racemate described in Reference Example 2.

reactant | (-)-[(E)-1-(2,4-dichlorphenyl)-2-(1,2,4-triazol-1-yl)-4,4-dimethyl-1-penten-3-yl]-(-)-menthoxyacetate | 1.6 g | ClC1=C(C=CC(=C1)Cl)\C=C(/C(C(C)(C)C)C(C(=O)[O-])OC1CC(CCC1C(C)C)C)\N1N=CN=C1
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (-)-(E)-1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-4,4-dimethyl-1-penten-3-ol | 0.8 g | ClC1=C(C=CC(=C1)Cl)\C=C(/C(C(C)(C)C)O)\N1N=CN=C1 | C15H17Cl2N3O
